US06211199B1
23.2 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-hydroxypropyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-(t-butyldimethylsilyloxy)propyl)-2-oxopyrrolidine (1.08 mmol) and ammonium fluoride (0.24 g, 6.48 mmol) in methanol (10 mL). Heat to reflux. After 2 hours, cool to ambient temperature and pour the reaction mixture into a brine (30 mL). Extract five times with dichloromethane. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give the title compound: Rf=0.30 (silica gel, ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-(t-butyldimethylsilyloxy)propyl)-2-oxopyrrolidine | 1.08 mmol | COC=1C=C(CN2C(C(CC2)(CCCO[Si](C)(C)C(C)(C)C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C30H44FNO5Si
reactant | ammonium fluoride | 6.48 mmol, 0.24 g | [F-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
solvent | brine | 30 mL | [Cl-].[Na+].O
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-hydroxypropyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCCO)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C24H30FNO5
